US03994904
3-[3-(4-Phenyl-1-Piperidyl)Propyl]-5-Phenyl-5-(2-Pyridyl)-Hydantoin
Substitution of 1-(2-chloroethyl)-4-phenyl-piperidine or 1-(chloromethyl)-4-phenyl-piperidine for 1-(3-chloropropyl)-4-phenyl-piperidine in the above example respectively yields: 3-[2-(4-phenyl-1-piperidyl)ethyl]-5-phenyl-5-(2-pyridyl)-hydantoin and 3-[(4-phenyl)-1-piperidyl)methyl]-5-phenyl-5-(2-pyridyl)-hydantoin.

reactant | 1-(chloromethyl)-4-phenyl-piperidine | ClCN1CCC(CC1)C1=CC=CC=C1 | C12H16ClN
reactant | 1-(3-chloropropyl)-4-phenyl-piperidine | ClCCCN1CCC(CC1)C1=CC=CC=C1 | C14H20ClN
reactant | 3-[2-(4-phenyl-1-piperidyl)ethyl]-5-phenyl-5-(2-pyridyl)-hydantoin | C1(=CC=CC=C1)C1CCN(CC1)CCN1C(NC(C1=O)(C1=NC=CC=C1)C1=CC=CC=C1)=O | C27H28N4O2
reactant | 5-phenyl-5-(2-pyridyl)-hydantoin | C1(=CC=CC=C1)C1(C(NC(N1)=O)=O)C1=NC=CC=C1 | C14H11N3O2
product | 3-[3-(4-Phenyl-1-Piperidyl)Propyl]-5-Phenyl-5-(2-Pyridyl)-Hydantoin | C1(=CC=CC=C1)C1CCN(CC1)CCCN1C(NC(C1=O)(C1=NC=CC=C1)C1=CC=CC=C1)=O | C28H30N4O2
